US09120777B2
C) (2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methanol
A mixture of methyl 2-bromo-2′,4′-difluoro-5-isopropoxybiphenyl-4-carboxylate (4.90 g), cyclopropylboronic acid (3.28 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.783 g), a 2 M aqueous sodium carbonate solution (19.1 mL), tris(dibenzylideneacetone)dipalladium(0) (0.815 g), and toluene (50 mL) was stirred overnight at 100 C. The organic layer was separated from the reaction mixture, washed with saturated saline, and passed through a short silica gel (NH) column, and the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate). A THF (50 mL) solution of this purified product was added to a THF (50 mL) suspension of lithium aluminum hydride (0.474 g) under ice cooling. After stirring at the same temperature as above for 30 minutes, water (0.5 mL) and a 15% aqueous sodium hydroxide solution (0.5 mL) were added thereto, and the mixture was stirred for 5 minutes. Water (1.5 mL) was further added to the reaction mixture, and the mixture was stirred for 30 minutes and then filtered. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.97 g).

reactant | methyl 2-bromo-2′,4′-difluoro-5-isopropoxybiphenyl-4-carboxylate | 4.90 g | BrC1=C(C=C(C(=C1)C(=O)OC)OC(C)C)C1=C(C=C(C=C1)F)F | C17H15BrF2O3
reactant | cyclopropylboronic acid | 3.28 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.783 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 19.1 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.815 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | (2-Cyclopropyl-2′,4′-difluoro-5-isopropoxybiphenyl-4-yl)methanol | 3.97 g | C1(CC1)C1=C(C=C(C(=C1)CO)OC(C)C)C1=C(C=C(C=C1)F)F | C19H20F2O2
